US07351733B2
6-Methoxy-2,3,4,9-tetrahydro-1H-carbazol-1-one was prepared from p-anisidine and 2-(hydroxymethylene)cyclohexanone in a similar manner as described in Example 1 to give a tan solid. 1H-NMR (CDCl3): δ 8.77 (br s, 1H), 7.32 (d, 1H), 7.06 (d, 1H), 7.03 (s, 1H), 3.88 (s, 3H), 2.98 (t, 2H), 2.66 (t, 2H), 2.28 (quint, 2H); MS m/z 216 (M+1).

reactant | p-anisidine | COC1=CC=C(C=C1)N | C7H9NO
reactant | 2-(hydroxymethylene)cyclohexanone | OC=C1C(CCCC1)=O | C7H10O2
product | 6-Methoxy-2,3,4,9-tetrahydro-1H-carbazol-1-one | COC=1C=C2C=3CCCC(C3NC2=CC1)=O | C13H13NO2
